US04550107
(S)-5,11-Dihydro-11-[[2-[(4-methyl-1-piperazinyl)methyl]-1-pyrrolidinyl]-acetyl]-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one
The title compound is prepared analogously to Example 31 from 11-(chloroacetyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one and (S)-(+)-2-[(4-methyl-1-piperazinyl) methyl]pyrrolidine to give colorless crystals, mp. 182°-185° C. (D) (from ethyl acetate/methanol 99:1 v/v); [α]D20 =-11.2° (ethanol).

reactant | 11-(chloroacetyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | ClCC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C14H10ClN3O2
reactant | (S)-(+)-2-[(4-methyl-1-piperazinyl) methyl]pyrrolidine | CN1CCN(CC1)C[C@H]1NCCC1 | C10H21N3
product | (S)-5,11-Dihydro-11-[[2-[(4-methyl-1-piperazinyl)methyl]-1-pyrrolidinyl]-acetyl]-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | CN1CCN(CC1)C[C@H]1N(CCC1)CC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C24H30N6O2
